US09079866B2
2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-N-[(1R)-2-hydroxy-1-methylethyl]benzenesulfonamide
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and (R)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide. MS (ESI): mass calcd. for C18H19N5O3S, 385.12; m/z found, 386.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.92 (s, 2H), 8.66-8.56 (m, 1H), 8.19 (dd, J=8.0, 1.4, 1H), 7.95 (dd, J=8.2, 2.3, 1H), 7.83 (dd, J=8.2, 0.9, 1H), 7.72 (m, 1H), 7.64 (m, 1H), 7.43 (dd, J=7.5, 1.4, 1H), 3.43-3.16 (m, 4H), 1.03 (d, J=6.6, 3H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | (R)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@@H](CO)C | C9H12BrNO3S
product | 2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-N-[(1R)-2-hydroxy-1-methylethyl]benzenesulfonamide | NC1=NC=C(C=N1)C1=CC=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)N[C@@H](CO)C | C18H19N5O3S
